US07842685B2
3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (105 mg, 269 μmol) was dissolved in thionyl chloride (5 mL) and was stirred at 65° C. for 1 h. The reaction mixture was concentrated before it was dissolved in DCM (3 mL); to this was added tetrabutylammonium bromide (8 mg, 27 μmol), water (269 μl, 269 μmol), and sodium azide (21.0 mg, 323 μmol) at 0° C. before it was stirred for 2 h. The reaction mixture was diluted with 75 mL of DCM, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of water, separated, dried over sodium sulfate, and concentrated via rotovap to give 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoyl azide. MS (ESI) m/z: Calculated: 415.1; Observed: 416.0 (M++1).

reactant | 3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 269 μmol, 105 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | water | 269 μmol, 269 μl | O | H2O
reactant | sodium azide | 323 μmol, 21.0 mg | [N-]=[N+]=[N-].[Na+]
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | tetrabutylammonium bromide | 27 μmol, 8 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoyl azide | FC=1C=C(C(=O)N=[N+]=[N-])C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H14FN5OS
